US04215139
18.4 g of potassium carbonate, 8.0 g of 2-[p-(p-chlorophenoxy)phenoxy]ethylamine hydrochloride and 16.0 g of chloroformic acid ethyl ester in 210 ml of acetone are heated to reflux with stirring for 7 hours. Undissolved salt is vacuum filtered and washed well with acetone. The filtrate is evaporated in vacuo. The crystalline residue remaining is dissolved in ethyl acetate, washed with water and saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The residue is recrystallized from diisopropyl ether to yield 7.3 g (81.5%) of 2-[p-(p-chlorophenoxy)phenoxy]ethylcarbamic acid ethyl ester, m.p.--99°-100° C.

reactant | potassium carbonate | 18.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[p-(p-chlorophenoxy)phenoxy]ethylamine hydrochloride | 8.0 g | Cl.ClC1=CC=C(OC2=CC=C(OCCN)C=C2)C=C1
reactant | chloroformic acid ethyl ester | 16.0 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | acetone | 210 ml | CC(=O)C | C3H6O
product | 2-[p-(p-chlorophenoxy)phenoxy]ethylcarbamic acid ethyl ester | 7.3 g, 81.5% | C(C)OC(NCCOC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C17H18ClNO4
